US07592365B2
2-Acetylamino-4-{4-[3-(4-trifluoromethoxyphenyl)ureido]phenyl}-1H-pyrrole-3-carboxamide
2-Acetylamino-4-{4-[(3-(4-trifluoromethoxyphenyl)ureido]phenyl}-1H-pyrrole-3-carboxamide may be prepared as described in Example 12 from 4-(trifluoromethoxy)phenyl isocyanate and 2-acetylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide.

reactant | 4-(trifluoromethoxy)phenyl isocyanate | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
reactant | 2-acetylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide | C(C)(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)N | C13H14N4O2
product | 2-Acetylamino-4-{4-[3-(4-trifluoromethoxyphenyl)ureido]phenyl}-1H-pyrrole-3-carboxamide | C(C)(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C21H18F3N5O4
